### PR TITLE
feat(ClassicalMechanics): pendulum trajectories on the configuration circle and the bridge to physical space

### PR DESCRIPTION
**Pull request by aadarwal**
Toward #883 — closes the tracker's trajectory and Lagrangian requirements: with this PR the parent
pendulum API map has no `N/A` rows left.

Follows #1560–#1564, #1569 and #1570 (all merged); this PR is now based directly on master
(`33d99376`) — its three commits (`b30a3922..d86c888b`) are the whole diff; the last one, `d86c888b`, is the review golfing round.

Two new modules under `SimplePendulum/Geometric/`:

**`Trajectory.lean`** — `Trajectory := Time → ConfigurationSpace`; `Trajectory.ofLift` (the
trajectory described by a lift of the angle) with: invariance under whole-turn shifts
(`ofLift_add_int_mul_two_pi`), `ofLift_eq_iff` (two lifts give the same trajectory iff **at each
time** they differ by whole turns — the quantifiers are `∀ t, ∃ n`; the uniform-`n` version is
false), continuity, and `contMDiff_ofLift` (a `C^n` lift describes a `C^n` curve in the circle —
forward direction only; the converse needs the covering-map lift and is deferred honestly); the
bob's position along a trajectory with the rod-length constraint.

**`PhysicalSpace.lean`** — `spaceTrajectory` (the bob's position for a fixed pendulum), its
velocity `(ℓ cos θ, ℓ sin θ)·θ̇` and speed `ℓ²θ̇²`, and the payoff identities under
`Differentiable ℝ θ`: `kineticEnergy_eq_space` (`½ I θ̇² = ½ m ‖v‖²`), `potentialEnergy_eq_height`
(`V = m g h`, `h` from the bottom of the swing), `lagrangian_eq_space` — **the chart Lagrangian of
#1564 is the constrained Lagrangian of a point mass on the circle of radius ℓ** — and
`energy_eq_space`.

`deriv_sin_coord`/`deriv_cos_coord` are general chain-rule facts kept local to keep this PR to one
file pair; happy to promote them to `Time/Derivatives.lean` in a follow-up if preferred.

**Reviewer reading order:** `Trajectory.lean` §A (check `ofLift_eq_iff`'s quantifiers), §B, §C;
then `PhysicalSpace.lean` §A–B (the global-`Differentiable` hypothesis comes from the `Time.deriv`
API), §C (the four identities); the API maps last — the parent's trajectory and Lagrangian rows
flip to done, the Lagrangian row citing both the definition (`SimplePendulum.lagrangian`,
`Basic.lean`) and the identification proved here.

**Verification:** full `lake build` + complete linter battery pass; axiom audit clean; the two new
modules' imports verified minimal.

Developed with assistance from AI; all mathematics and proofs were reviewed and verified to compile.

### CODE REVIEW

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean [hunk 1]
```diff
@@ -0,0 +1,171 @@
...
+-/
+
+@[expose] public section
+
+noncomputable section
+
+open scoped Manifold
+
+namespace ClassicalMechanics
+namespace SimplePendulum
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]:
```suggestion
namespace ClassicalMechanics.SimplePendulum
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean [hunk 2]
```diff
@@ -0,0 +1,171 @@
...
+      = θ t 0 + n * (2 * Real.pi) := by
+    simp
+  rw [h0]
+  exact ConfigurationSpace.ofAngle_periodic.int_mul n (θ t 0)
+
+/-- Two lifts of the angle describe the same trajectory exactly when at each time they differ by
+  a whole number of turns. -/
+lemma ofLift_eq_iff (θ₁ θ₂ : Time → EuclideanSpace ℝ (Fin 1)) :
+    ofLift θ₁ = ofLift θ₂ ↔ ∀ t, ∃ n : ℤ, θ₂ t 0 = θ₁ t 0 + n * (2 * Real.pi) := by
+  simp only [funext_iff, ofLift_apply, ConfigurationSpace.ofAngle_eq_iff]
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]:
```suggestion
/-- Two lifts of the angle describe the same trajectory exactly when at each time they differ by
  a whole number of turns. -/
lemma ofLift_eq_iff (θ₁ θ₂ : Time → EuclideanSpace ℝ (Fin 1)) :
    ofLift θ₁ = ofLift θ₂ ↔ ∀ t, ∃ n : ℤ, θ₂ t 0 = θ₁ t 0 + n * (2 * Real.pi) := by
  simp only [funext_iff, ofLift_apply, ConfigurationSpace.ofAngle_eq_iff]
  
 /-- Shifting a lift of the angle by a whole number of turns leaves the described trajectory
  unchanged. -/
lemma ofLift_add_int_mul_two_pi (θ : Time → EuclideanSpace ℝ (Fin 1)) (n : ℤ) :
    ofLift (fun t => θ t + (n * (2 * Real.pi)) • EuclideanSpace.single 0 1) = ofLift θ := by
  rw [ofLift_eq_iff]
  intro
  exact ⟨-n, by simp⟩
```
If we swap the order of these two lemmas the second one becomes a consequence of the first.

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean [hunk 3]
```diff
@@ -0,0 +1,171 @@
...
+  ConfigurationSpace.continuous_ofAngle.comp
+    ((EuclideanSpace.proj (0 : Fin 1)).continuous.comp hθ)
+
+/-- The trajectory described by a `C^n` lift of the angle is a `C^n` curve in the configuration
+  circle. -/
+lemma contMDiff_ofLift {n : WithTop ℕ∞} {θ : Time → EuclideanSpace ℝ (Fin 1)}
+    (hθ : ContDiff ℝ n θ) : ContMDiff 𝓘(ℝ, Time) (𝓡 1) n (ofLift θ) := by
+  have h : ContDiff ℝ n fun t => θ t 0 :=
+    (ContinuousLinearMap.contDiff (𝕜 := ℝ) (EuclideanSpace.proj (0 : Fin 1))).comp hθ
+  exact (ConfigurationSpace.contMDiff_ofAngle.of_le le_top).comp (contMDiff_iff_contDiff.mpr h)
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]:
```suggestion
  apply (ConfigurationSpace.contMDiff_ofAngle.of_le le_top).comp (contMDiff_iff_contDiff.mpr _)
  exact (ContinuousLinearMap.contDiff (𝕜 := ℝ) (EuclideanSpace.proj (0 : Fin 1))).comp hθ
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean [hunk 4]
```diff
@@ -0,0 +1,171 @@
...
+## C. Physical position along a trajectory
+
+Composing a trajectory with the map to physical space places the bob in the plane at each time.
+Along the trajectory described by a lift the bob is at `(ℓ sin θ, -ℓ cos θ)`, and the rod-length
+constraint holds at all times: the bob stays on the circle of radius `|ℓ|` about the pivot.
+
+-/
+
+/-- The physical position of the bob along a trajectory, over time, for a rod of length `ℓ`. -/
+def toSpace (ℓ : ℝ) (γ : Trajectory) : Time → Space 2 := fun t => (γ t).toSpace ℓ
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]:
```suggestion
def toSpace (ℓ : ℝ) (γ : Trajectory) (t : Time) : Space 2 := (γ t).toSpace ℓ
```
This does the same thing but is easier to read, Lean is smart enough to know that `toSpace ℓ γ` should be interpreted as `fun t => (γ t).toSpace ℓ`

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean [hunk 5]
```diff
@@ -0,0 +1,171 @@
...
+/-- The physical position of the bob along a continuous trajectory depends continuously on the
+  time. -/
+lemma continuous_toSpace (ℓ : ℝ) {γ : Trajectory} (hγ : Continuous γ) :
+    Continuous (toSpace ℓ γ) :=
+  (ConfigurationSpace.continuous_toSpace ℓ).comp hγ
+
+end Trajectory
+
+end SimplePendulum
+end ClassicalMechanics
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]:
```suggestion
end ClassicalMechanics.SimplePendulum.Trajectory
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 6]
```diff
@@ -0,0 +1,257 @@
...
+- Landau & Lifshitz, Mechanics, 3rd ed., §5, Problems 1–3 (pendulum configurations).
+
+-/
+
+@[expose] public section
+
+open Real InnerProductSpace Time
+
+namespace ClassicalMechanics
+namespace SimplePendulum
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
namespace ClassicalMechanics.SimplePendulum
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 7]
```diff
@@ -0,0 +1,257 @@
...
+/-- Along the trajectory described by a lift `θ` of the angle the bob of the pendulum `S` is at
+  `(ℓ sin (θ t 0), -ℓ cos (θ t 0))`. -/
+lemma spaceTrajectory_eq (θ : Time → EuclideanSpace ℝ (Fin 1)) :
+    S.spaceTrajectory θ = fun t => ⟨![S.ℓ * Real.sin (θ t 0), -S.ℓ * Real.cos (θ t 0)]⟩ :=
+  funext fun t => Trajectory.toSpace_ofLift S.ℓ θ t
+
+/-- The horizontal position of the bob along a lifted trajectory is `ℓ sin (θ t 0)`. -/
+lemma spaceTrajectory_apply_zero (θ : Time → EuclideanSpace ℝ (Fin 1)) (t : Time) :
+    S.spaceTrajectory θ t 0 = S.ℓ * Real.sin (θ t 0) := by
+  rw [S.spaceTrajectory_eq θ]; rfl
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
  simp [S.spaceTrajectory_eq θ]
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 8]
```diff
@@ -0,0 +1,257 @@
...
+
+/-- The vertical position of the bob along a lifted trajectory is `-ℓ cos (θ t 0)`, the pivot
+  being the origin and the second axis pointing upwards. -/
+lemma spaceTrajectory_apply_one (θ : Time → EuclideanSpace ℝ (Fin 1)) (t : Time) :
+    S.spaceTrajectory θ t 1 = -S.ℓ * Real.cos (θ t 0) := by
+  rw [S.spaceTrajectory_eq θ]; rfl
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
  simp [S.spaceTrajectory_eq θ]
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 9]
```diff
@@ -0,0 +1,257 @@
...
+lemma deriv_sin_coord (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
+    (t : Time) : ∂ₜ (fun s => Real.sin (θ s 0)) t = Real.cos (θ t 0) * (∂ₜ θ t) 0 := by
+  have hc : Differentiable ℝ fun s => θ s 0 :=
+    (EuclideanSpace.proj (𝕜 := ℝ) (0 : Fin 1)).differentiable.comp hθ
+  have h : HasFDerivAt (fun s => Real.sin (θ s 0))
+      (Real.cos (θ t 0) • fderiv ℝ (fun s => θ s 0) t) t :=
+    HasDerivAt.comp_hasFDerivAt (h₂ := Real.sin) t (Real.hasDerivAt_sin (θ t 0))
+      (hc t).hasFDerivAt
+  rw [Time.deriv_eq, h.fderiv, _root_.smul_apply, smul_eq_mul, ← Time.deriv_eq,
+    Time.deriv_euclid hθ t]
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
lemma deriv_sin_coord (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
    (t : Time) : ∂ₜ (fun s => Real.sin (θ s 0)) t = Real.cos (θ t 0) * (∂ₜ θ t) 0 := by
  rw [Time.deriv_eq, fderiv_sin, smul_apply, smul_eq_mul, ← Time.deriv_eq, Time.deriv_euclid hθ t]
  fun_prop
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 10]
```diff
@@ -0,0 +1,257 @@
...
+lemma deriv_cos_coord (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
+    (t : Time) : ∂ₜ (fun s => Real.cos (θ s 0)) t = -Real.sin (θ t 0) * (∂ₜ θ t) 0 := by
+  have hc : Differentiable ℝ fun s => θ s 0 :=
+    (EuclideanSpace.proj (𝕜 := ℝ) (0 : Fin 1)).differentiable.comp hθ
+  have h : HasFDerivAt (fun s => Real.cos (θ s 0))
+      (-Real.sin (θ t 0) • fderiv ℝ (fun s => θ s 0) t) t :=
+    HasDerivAt.comp_hasFDerivAt (h₂ := Real.cos) t (Real.hasDerivAt_cos (θ t 0))
+      (hc t).hasFDerivAt
+  rw [Time.deriv_eq, h.fderiv, _root_.smul_apply, smul_eq_mul, ← Time.deriv_eq,
+    Time.deriv_euclid hθ t]
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
lemma deriv_cos_coord (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
    (t : Time) : ∂ₜ (fun s => Real.cos (θ s 0)) t = -Real.sin (θ t 0) * (∂ₜ θ t) 0 := by
  rw [Time.deriv_eq, fderiv_cos, smul_apply, smul_eq_mul, ← Time.deriv_eq, Time.deriv_euclid hθ t]
  fun_prop
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 11]
```diff
@@ -0,0 +1,257 @@
...
+  rw [S.spaceTrajectory_eq θ]
+  have h : Differentiable ℝ fun t => θ t 0 :=
+    (EuclideanSpace.proj (𝕜 := ℝ) (0 : Fin 1)).differentiable.comp hθ
+  have hpi : Differentiable ℝ
+      fun t => (![S.ℓ * Real.sin (θ t 0), -S.ℓ * Real.cos (θ t 0)] : Fin 2 → ℝ) :=
+    differentiable_pi.mpr fun i => by
+      fin_cases i
+      · simpa using (Real.differentiable_sin.comp h).const_mul S.ℓ
+      · simpa using (Real.differentiable_cos.comp h).const_mul (-S.ℓ)
+  exact Space.mk_differentiable.comp hpi
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
@[fun_prop]
lemma differentiable_spaceTrajectory (θ : Time → EuclideanSpace ℝ (Fin 1))
    (hθ : Differentiable ℝ θ) : Differentiable ℝ (S.spaceTrajectory θ) := by
  rw [S.spaceTrajectory_eq θ]
  apply Space.mk_differentiable.comp
  rw [differentiable_pi]
  intro i
  fin_cases i <;> (simp; fun_prop)
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 12]
```diff
@@ -0,0 +1,257 @@
...
+    have hcos : Differentiable ℝ fun s => Real.cos (θ s 0) :=
+      Real.differentiable_cos.comp
+        ((EuclideanSpace.proj (𝕜 := ℝ) (0 : Fin 1)).differentiable.comp hθ)
+    rw [Time.deriv_eq, fderiv_const_mul (hcos t) (-S.ℓ), _root_.smul_apply, smul_eq_mul,
+      ← Time.deriv_eq, deriv_cos_coord θ hθ t]
+    ring
+  refine Space.eq_of_apply fun i => ?_
+  fin_cases i
+  · exact (Time.deriv_space hF t 0).symm.trans h0
+  · exact (Time.deriv_space hF t 1).symm.trans h1
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
lemma deriv_spaceTrajectory (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
    (t : Time) :
    ∂ₜ (S.spaceTrajectory θ) t =
      ⟨![S.ℓ * Real.cos (θ t 0) * (∂ₜ θ t) 0, S.ℓ * Real.sin (θ t 0) * (∂ₜ θ t) 0]⟩ := by
  refine Space.eq_of_apply fun i ↦ ?_
  fin_cases i <;> apply (Time.deriv_space (by fun_prop) t _).symm.trans
  · simp only [S.spaceTrajectory_apply_zero, Fin.zero_eta, Matrix.cons_val_zero]
    rw [Time.deriv_eq, fderiv_const_mul, smul_apply, smul_eq_mul, ← Time.deriv, deriv_sin_coord,
      mul_assoc]
    all_goals fun_prop
  · simp only [Fin.mk_one, S.spaceTrajectory_apply_one, Matrix.cons_val_one, Matrix.cons_val_zero]
    rw [Time.deriv_eq, fderiv_const_mul, smul_apply, smul_eq_mul, ← Time.deriv, deriv_cos_coord]
    ring
    all_goals fun_prop
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 13]
```diff
@@ -0,0 +1,257 @@
...
+/-- The chart kinetic energy of the pendulum along a differentiable lift of the angle is the
+  kinetic energy of the bob in physical space. -/
+lemma kineticEnergy_eq_space (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
+    (t : Time) :
+    S.kineticEnergy θ t = (1 / (2 : ℝ)) * S.m * ‖∂ₜ (S.spaceTrajectory θ) t‖ ^ 2 := by
+  rw [S.norm_sq_deriv_spaceTrajectory θ hθ t]
+  show (1 / (2 : ℝ)) * S.inertia * ⟪∂ₜ θ t, ∂ₜ θ t⟫_ℝ = _
+  rw [inertia]
+  simp only [PiLp.inner_apply, RCLike.inner_apply, conj_trivial, Fin.sum_univ_one]
+  ring
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean:192]:
```suggestion
lemma kineticEnergy_eq_space (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
    (t : Time) :
    S.kineticEnergy θ t = (1 / (2 : ℝ)) * S.m * ‖∂ₜ (S.spaceTrajectory θ) t‖ ^ 2 := by
  rw [S.norm_sq_deriv_spaceTrajectory θ hθ t]
  show (1 / (2 : ℝ)) * (S.m * S.ℓ ^ 2) * ⟪∂ₜ θ t, ∂ₜ θ t⟫_ℝ = _
  rw [PiLp.inner_apply, Fin.sum_univ_one, RCLike.inner_apply, conj_trivial]
  ring
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 14]
```diff
@@ -0,0 +1,257 @@
...
+/-- The chart energy of the pendulum along a differentiable lift of the angle is the total
+  energy of the bob in physical space: the kinetic energy of the point mass plus its
+  gravitational potential. -/
+lemma energy_eq_space (θ : Time → EuclideanSpace ℝ (Fin 1)) (hθ : Differentiable ℝ θ)
+    (t : Time) :
+    S.energy θ t =
+      (1 / (2 : ℝ)) * S.m * ‖∂ₜ (S.spaceTrajectory θ) t‖ ^ 2
+        + S.m * S.g * (S.spaceTrajectory θ t 1 + S.ℓ) := by
+  have hE : S.energy θ t = S.kineticEnergy θ t + S.potentialEnergy (θ t) := rfl
+  rw [hE, S.kineticEnergy_eq_space θ hθ t, S.potentialEnergy_eq_height θ t]
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
  rw [← S.kineticEnergy_eq_space θ hθ t, ← S.potentialEnergy_eq_height θ t]
  rfl
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean [hunk 15]
```diff
@@ -0,0 +1,257 @@
...
+
+end SimplePendulum
+end ClassicalMechanics
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]:
```suggestion
end ClassicalMechanics.SimplePendulum
```

**Review by morrison-daniel — COMMENTED** [review]
Looks good, just a couple minor points and then golfing some proofs

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean (hunk 1 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean (hunk 3 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean (hunk 4 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean (hunk 5 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 6 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 7 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 8 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 9 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 10 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 11 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 12 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 13 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean:192]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 14 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean (hunk 15 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/PhysicalSpace.lean]: Applied in `d86c888b` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean (hunk 2 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Geometric/Trajectory.lean]: Applied in `d86c888b` — nice, the implication direction is much cleaner. (I normalised a one-space indent before the second docstring from the suggestion block.)

**Review by morrison-daniel — APPROVED** [review]
